US03974176
To a hot solution of 1.0 g of 5-chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-acetonitrile in 75 ml of ethanol a solution of 0.42 g of hydroxylamine hydrochloride in 6.05 ml of 1 N sodium bicarbonate solution is added and heating is carried out at boiling for 11 hours under reflux. The solution is evaporated to dryness and recrystallised from methanol/water. 5-Chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-acetamidoxime is obtained with a yield of 86%; F 184-186° (from toluene).

reactant | 5-chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-acetonitrile | 1.0 g | ClC1=C(C(=NN1C1=CC=CC=C1)C1=CC=C(C=C1)Cl)CC#N | C17H11Cl2N3
reactant | hydroxylamine hydrochloride | 0.42 g | Cl.NO
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | sodium bicarbonate | 1 N, 6.05 ml | C([O-])(O)=O.[Na+]
product | 5-Chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-acetamidoxime | yield of 86% | ClC1=C(C(=NN1C1=CC=CC=C1)C1=CC=C(C=C1)Cl)CC(N)=NO | C17H14Cl2N4O
